US09102662B2
Preparation of 4-{[5-(3,5-difluorobenzyl)-1H-indazol-3-yl]carbamoyl}-3-nitrobenzoic acid
Methyl 4-{[5-(3,5-difluorobenzyl)-1H-indazol-3-yl]carbamoyl}-3-nitrobenzoate (5.4 gr, 11.6 mmol) was dissolved in THF (78 mL) and water (52 mL) and treated at room temperature with LiOH hydrate (730 mg) for 24 hours. THF was evaporated and the resulting aqueous phase was treated with 5% KHSO4 aqueous solution (100 mL). The so obtained precipitated was filtered off and dried under vacuum at 60° C. affording the title compound without any further purification.

reactant | Methyl 4-{[5-(3,5-difluorobenzyl)-1H-indazol-3-yl]carbamoyl}-3-nitrobenzoate | 11.6 mmol, 5.4 gr | FC=1C=C(CC=2C=C3C(=NNC3=CC2)NC(=O)C2=C(C=C(C(=O)OC)C=C2)[N+](=O)[O-])C=C(C1)F | C23H16F2N4O5
reactant | water | 52 mL | O | H2O
reactant | LiOH hydrate | 730 mg | O[Li].O
solvent | THF | 78 mL | C1CCOC1 | C4H8O
product | 4-{[5-(3,5-difluorobenzyl)-1H-indazol-3-yl]carbamoyl}-3-nitrobenzoic acid | FC=1C=C(CC=2C=C3C(=NNC3=CC2)NC(=O)C2=C(C=C(C(=O)O)C=C2)[N+](=O)[O-])C=C(C1)F | C22H14F2N4O5
